US06949542B2
(5-Methyl-2-{3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J20) (290 mg, 1.0 mmol) and 3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K16) (312 mg, 1.0 mmol) according to the general procedure M. Obtained as a light brown foam (460 mg, 87%).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 290 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 312 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=CN=C1)C)=O | C18H20N2O3
product | (5-Methyl-2-{3-[3-(6-methyl-pyrazin-2-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=NC(=CN=C1)C)=O)=O | C27H27F3N4O4
